US06245746B1
A mixture of 3-phenylpropylamine (0.95 g, 7 mmol) and acrylonitrile (0.55 ml, 8.4 mmol) in ethanol (30 ml) was refluxed for 2 hours to give N-(2-cyanoethyl)-3-phenyl-propylamine.

reactant | 3-phenylpropylamine | 7 mmol, 0.95 g | C1(=CC=CC=C1)CCCN | C9H13N
reactant | acrylonitrile | 8.4 mmol, 0.55 ml | C(C=C)#N | C3H3N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-(2-cyanoethyl)-3-phenyl-propylamine | C(#N)CCNCCCC1=CC=CC=C1 | C12H16N2
